US08541573B2
Step 4: (1-Benzyl-4-(4-(pyridin-4-yl)piperazin-1-yl)piperidin-4-yl)methanamine
H2SO4 (1.5 equiv.) was added to a suspension of LAH (3 equiv.) in THF (32 ml) at 0° C. and the mixture was stirred at room temperature for 0.5 h. A solution of 1-benzyl-4-(4-(pyridin-4-yl)piperazin-1-yl)piperidine-4-carbonitrile (5.54 mmol, 1 equiv.) in THF was added under cooled conditions and the resulting reaction mixture was heated to 50° C. for 16 h. The reaction was quenched with THF/H2O solution, filtered and the solid residue washed with excess ethyl acetate. The organic layer was given a brine wash, dried over sodium sulfate and the solvent was removed under reduced pressure. The resulting crude product was used for the next step without further purification. Yield: 85%.

reactant | H2SO4 | 1.5 equiv. | OS(=O)(=O)O | H2O4S
reactant | LAH | 3 equiv. | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-benzyl-4-(4-(pyridin-4-yl)piperazin-1-yl)piperidine-4-carbonitrile | 5.54 mmol, 1 equiv. | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)N1CCN(CC1)C1=CC=NC=C1 | C22H27N5
solvent | THF | 32 ml | C1CCOC1 | C4H8O
product | (1-Benzyl-4-(4-(pyridin-4-yl)piperazin-1-yl)piperidin-4-yl)methanamine | Yield: 85% | C(C1=CC=CC=C1)N1CCC(CC1)(N1CCN(CC1)C1=CC=NC=C1)CN | C22H31N5
